US07423030B2
13.1. 5,7-Dimethoxy-2H-phthalazin-1-one
The 2-formyl-3,5-dimethoxybenzoic acid (2.7 g, 13 mmol) is partially dissolved in 300 mL of ethanol, and 6.2 mL of hydrazine hydrate are then added. The mixture is refluxed for 6 hours. After cooling, the precipitate formed is filtered off and then dried. 2.3 g of a white solid are obtained (86% yield).

reactant | 2-formyl-3,5-dimethoxybenzoic acid | 13 mmol, 2.7 g | C(=O)C1=C(C(=O)O)C=C(C=C1OC)OC | C10H10O5
reactant | hydrazine hydrate | 6.2 mL | O.NN
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 5,7-Dimethoxy-2H-phthalazin-1-one | 2.3 g, 86% yield | COC1=C2C=NNC(C2=CC(=C1)OC)=O | C10H10N2O3
